US04200641
A mixture of 9.8 parts of ethyl 3-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-2,3-dihydro-2-oxo-1H-benzimidazole-1-acetate, 1.2 parts of sodium hydroxide and 150 parts of water is stirred and refluxed for 5 minutes (+80° C.). The reaction mixture is filtered and the filtrate is acidified with acetic acid to pH 5.8-6; a sticky precipitate is formed. It is separated and crystallized from ethanol and water. The product is filtered off and dried in vacuo at 100° C. for 3 hours, yielding 6 parts of 3-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-2,3-dihydro-2-oxo-1H-benzimidazole-1-acetic acid hemihydrate; mp. 138.7° C.

reactant | ethyl 3-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-2,3-dihydro-2-oxo-1H-benzimidazole-1-acetate | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(N(C2=C1C=CC=C2)CC(=O)OCC)=O)C2=CC=CC=C2 | C31H36N4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-2,3-dihydro-2-oxo-1H-benzimidazole-1-acetic acid hemihydrate | O.C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(N(C2=C1C=CC=C2)CC(=O)O)=O)C2=CC=CC=C2.C2(=CC=CC=C2)C(C2=CC=CC=C2)N2CCN(CC2)CCCN2C(N(C1=C2C=CC=C1)CC(=O)O)=O | InChI=1S/2C29H32N4O3.H2O/c2*34-27(35)22-33-26-15-8-7-14-25(26)32(29(33)36)17-9-16-30-18-20-31(21-19-30)28(23-10-3-1-4-11-23)24-12-5-2-6-13-24;/h2*1-8,10-15,28H,9,16-22H2,(H,34,35);1H2
